US08975428B2
(1S,2R)-1,2-diphenylcyclopropanecarboxylic acid
To a round-bottom flask at room temperature was added (1S,2R)-methyl 1,2-diphenylcyclopropanecarboxylate (11.5 mmol, 2.91 g, 1.0 equiv.) in dry DMSO (24 mL). t-BuOK (25.4 mmol, 2.85 g, 2.2 equiv.) was added in several portions over 30 minutes under argon. The reaction was monitored by TLC technique until the starting material was consumed completely. The reaction mixture was cooled with ice bath and acidified by careful addition of saturated ammonium chloride (10 mL), followed by a slow addition of 1 N HCl aqueous (35 mL) with vigorous stirring until the pH value reached 3-4. Light yellow solid precipitate was collected by filtration, washed with water (3×5 mL), dissolved in ethyl acetate (100 mL), washed with brine (3×5 mL), dried over MgSO4, and concentrated in vacuo. The crude material was purified using flash column chromatography eluting with a 10:1 mixture of hexanes/ethyl acetate to provide the desired product as a white solid (1.64 g, 60% yield, >99% ee). 1H NMR (400 MHz, CDCl3) δ 7.15-7.14 (m, 3H), 7.08-7.03 (m, 5H), 7.06-6.79 (m, 2H), 3.18 (dd, J=9.4, 7.4 Hz, 1H), 2.21 (dd, J=9.4, 4.9 Hz, 1H), 1.97 (dd, J=7.4, 4.9 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 179.8, 136.1, 134.2, 132.1, 128.3, 127.99, 127.97, 127.5, 126.7, 37.4, 34.1, 20.9; HPLC (to improve the separation, the product was converted to the corresponding methyl ester prepared using dimethylsulfate/KOH in tetrahydrofuran under reflux), (S,S-Whelk, 1.5% isopropanol in hexane, 0.7 mL/min, 1 mg/mL, 30 min, UV 254 nm) retention times of 12.5 min (major) and 15.5 min (minor), >99% ee.

reactant | (1S,2R)-methyl 1,2-diphenylcyclopropanecarboxylate | 11.5 mmol, 2.91 g, 1.0 equiv. | C1(=CC=CC=C1)[C@]1([C@H](C1)C1=CC=CC=C1)C(=O)OC | C17H16O2
reactant | t-BuOK | 25.4 mmol, 2.85 g, 2.2 equiv. | CC(C)(C)[O-].[K+]
solvent | DMSO | 24 mL | CS(=O)C | C2H6OS
product | (1S,2R)-1,2-diphenylcyclopropanecarboxylic acid | 1.64 g, 60% yield | C1(=CC=CC=C1)[C@]1([C@H](C1)C1=CC=CC=C1)C(=O)O | C16H14O2
